US04205074
2-(Dithien-2-ylmethylene)quinolizidine methyl bromide
In 5 ml. of acetone was dissolved 0.5 g. of 2-(dithien-2-ylmethylene)quinolizidine. To the resulting solution was added 2.0 ml. of methyl bromide. The mixture was stirred at room temperature for 24 hrs. The formed crystals were taken out by filtration. By recrystallizing from ethanol, 0.49 g. of colorless crystals showing a melting point of 246°-248° C. (decomposed) were obtained.

reactant | 2-(dithien-2-ylmethylene)quinolizidine | S1C(=CC=C1)C(=C1CC2CCCCN2CC1)C=1SC=CC1 | C18H21NS2
reactant | methyl bromide | CBr | CH3Br
solvent | acetone | CC(=O)C | C3H6O
product | 2-(Dithien-2-ylmethylene)quinolizidine methyl bromide | CBr.S1C(=CC=C1)C(=C1CC2CCCCN2CC1)C=1SC=CC1 | InChI=1S/C18H21NS2.CH3Br/c1-2-9-19-10-8-14(13-15(19)5-1)18(16-6-3-11-20-16)17-7-4-12-21-17;1-2/h3-4,6-7,11-12,15H,1-2,5,8-10,13H2;1H3
